US07662841B2
A solution of 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid chloride (103 mg, 0.39 mmol) in diglim (10 ml) was cooled to −78° C. A solution of tri-t-butoxyaluminumlithium hydride(237 mg, 0.94 mmol) in diglim (6 ml) was added dropwise to the cooled solution, and, while gradually raising the temperature to −40° C., the mixture was stirred for 6 hr. After the completion of the reaction, a saturated aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate (7 ml×3). The organic layer was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:methanol=60:1) to give 2-bromoimidazo[5,1-b]thiazole-7-carbaldehyde (28 mg, 31%) as a white solid.

reactant | 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid chloride | 0.39 mmol, 103 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)Cl | C6H2BrClN2OS
reactant | hydride | 0.94 mmol, 237 mg | [H-]
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-bromoimidazo[5,1-b]thiazole-7-carbaldehyde | 28 mg, 31% | BrC1=CN2C(S1)=C(N=C2)C=O | C6H3BrN2OS
